US06448031B1
Z-Leu-OH 172.5 g and H-Arg-OEt.2HCl 178.9 g were added to 800 mL of a DMF/THF(1/1) mixed solution. The solution was neutralized by adding 143 mL of N-methylmorpholine at 0° C. Next 147.5 mL of DCC was added to the solution and then it was stirred at 0° C. for 5 minutes and at room temperature for 15 hours. The reaction solution was concentrated under reduced pressure then 1000 mL of water was added to the residue obtained. After the product was washed twice with 500 mL of ethyl acetate, the aqueous layer was extracted three times with 1000 mL of n-butanol. The obtained n-butanol layer was concentrated under reduced pressure to obtain Z-Leu-Arg-OEt.

reactant | Z-Leu-OH | 172.5 g | N([C@@H](CC(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C14H19NO4
reactant | H-Arg-OEt.2HCl | 178.9 g | N[C@@H](CCCNC(N)=N)C(=O)OCC.Cl.Cl
reactant | N-methylmorpholine | 143 mL | CN1CCOCC1 | C5H11NO
reactant | DCC | 147.5 mL | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | Z-Leu-Arg-OEt | N([C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)OCC)C(=O)OCC1=CC=CC=C1 | C22H35N5O5
